US04153607
3-Amino-5-pyrrolidino-thiazolo-(4,5-c)-isothiazole
5 parts of 2-pyrrolidino-4-amino-5-thiocarbamoylthiazole prepared as described in Example 3(a) and 3(b) are suspended in 50 parts of glacial acetic acid and 1 part of 50 percent strength by weight hydrogen peroxide is added at 20° C. Thereupon, the temperature rises to 30° C. After stirring for one hour at 22° C., the end product is precipitated by means of 100 parts of water, and is filtered off. 4.1 parts (82% of theory) of melting point 262°-264° C. are obtained.

reactant | 2-pyrrolidino-4-amino-5-thiocarbamoylthiazole | N1(CCCC1)C=1SC(=C(N1)N)C(N)=S | C8H12N4S2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-Amino-5-pyrrolidino-thiazolo-(4,5-c)-isothiazole | NC1=C2C(=NS1)N=C(S2)N2CCCC2 | C8H10N4S2
